US08283354B2
To 2-(7-methyl-4-piperazin-1-yl-quinazolin-2-yl)-phenol (787 mg, 2.46 mmol) in 8 mL of CH2Cl2 at room temperature was added sequentially but-2-enedioic acid monoethyl ester (531 mg, 3.69 mmol), triethylamine (686 μL, 4.92 mmol), BOP (1.63 g, 3.69 mmol). The reaction mixture was stirred for 20 min and diluted with water and CH2Cl2. The organic layer was separated and dried over Na2SO4, and the solvent was removed under reduced pressure to give an oil. The residue was subjected to purification by normal phase LC using 10-100% EtOAc-hexanes to give 4-{4-[2-(2-Hydroxy-phenyl)-7-methyl-quinazolin-4-yl]-piperazin-1-yl}-4-oxo-but-2-enoic acid ethyl ester (1.00 g, 91% yield). LC/MS: m/z 447.3 (M+H)+ at 2.93 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | 2-(7-methyl-4-piperazin-1-yl-quinazolin-2-yl)-phenol | 2.46 mmol, 787 mg | CC1=CC=C2C(=NC(=NC2=C1)C1=C(C=CC=C1)O)N1CCNCC1 | C19H20N4O
reactant | but-2-enedioic acid monoethyl ester | 3.69 mmol, 531 mg | C(C)OC(C=CC(=O)O)=O | C6H8O4
reactant | triethylamine | 4.92 mmol, 686 μL | C(C)N(CC)CC | C6H15N
reactant | BOP | 3.69 mmol, 1.63 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 4-{4-[2-(2-Hydroxy-phenyl)-7-methyl-quinazolin-4-yl]-piperazin-1-yl}-4-oxo-but-2-enoic acid ethyl ester | 1.00 g, 91% yield | C(C)OC(C=CC(=O)N1CCN(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O)=O | C25H26N4O4
